US06642229B2
To activated molecular sieves (2.0 g, 4 Å powdered) was added ethanol (20 ml) followed by sodium metal (0.435 g, 18.9 mmol), and the mixture heated at reflux for 15 min. After cooling to ambient temperature, acetamide oxime (1.4 g, 18.9 mmol) was added and the suspension stirred for 15 min. Methyl 2-bromobenzoate (1.32 ml, 9.5 mmol) was added and the mixture heated at reflux for 2 h. The reaction was poured into water and extracted with ethyl acetate. The organic phase was separated, dried over magnesium sulfate, filtered and evaporated to give a white solid. The crude product was purified by crystallisation from ethyl acetatelisohexane to give 5-(2-bromophenyl)-3-methyl-[1,2,4]oxadiazole as a white solid (0.76 g): δH (400 MHz, CDCl3) 2.52 (3H, s), 7.45 (2H, m), 7.76 (1H, dd, J 7.8 and 1.2), 7.97 (1H, dd, J 7.8 and 1.2); m/z (ES+) 239:241 (1:1) (M++H).

reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | sodium | 18.9 mmol, 0.435 g | [Na] | Na
reactant | acetamide oxime | 18.9 mmol, 1.4 g | C(C)(N)=NO | C2H6N2O
reactant | Methyl 2-bromobenzoate | 9.5 mmol, 1.32 ml | BrC1=C(C(=O)OC)C=CC=C1 | C8H7BrO2
solvent | water | O | H2O
product | 5-(2-bromophenyl)-3-methyl-[1,2,4]oxadiazole | 0.76 g | BrC1=C(C=CC=C1)C1=NC(=NO1)C | C9H7BrN2O
